US05106989
(1) Preparation of 2-nitro-4-nonylphenol
10 g of 4-nonylphenol (manufactured by Tokyo Kasei K.K., containing 10% of ortho compound) was dissolved in 30 ml of acetic acid and to the resulting solution was added 20 ml of 30% solution of nitric acid at 5°-10° C. for 2 hours. After 10 minutes, the resulting solution was treated with 50 g of ice water and then extracted with three 50-ml portions of ether. The ether was distilled off and then the residue was isolated using a silica gel column to obtain 9.33 g of the desired product in a 78% yield.

reactant | 4-nonylphenol | 10 g | C(CCCCCCCC)C1=CC=C(C=C1)O | C15H24O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-nitro-4-nonylphenol | 9.33 g, 78% yield | [N+](=O)([O-])C1=C(C=CC(=C1)CCCCCCCCC)O | C15H23NO3
